US06656971B2
5-(naphthalene-2-yl)-isophthalic acid dimethylester.
A solution of 5-bromoisophthalic acid dimethylester (544 mg, 2 mmol), 2-naphthaleneboronic acid (342 mg, 2 mmol), Pd(OAc)2 (8 mg), tri-o-tolylphosphine (30 mg) and 5 ml Et3N (5 ml) in 10 ml DMF was stirred at 100° C. for overnight The reaction mixture was purified by silica gel column eluted by 20% EtAc in hexane to afford the product (75% yield). 1H NMR (Acetone-d6, 400 MHz), 8.55 (s, 1H), 8.45 (s, 2H), 8.17 (d, 1H), 7.91 (d, 1H), 7.88 (d, 1H), 7.77 (t, 1H), 7.67 (t, 1H), 7.38 (m, 2H), 4.03 (s, 6H).

reactant | 5-bromoisophthalic acid dimethylester | 2 mmol, 544 mg | COC(C1=CC(C(=O)OC)=CC(=C1)Br)=O | C10H9BrO4
reactant | 2-naphthaleneboronic acid | 2 mmol, 342 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | tri-o-tolylphosphine | 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Et3N | 5 ml | CCN(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(naphthalene-2-yl)-isophthalic acid dimethylester | 75% yield | COC(C1=CC(C(=O)OC)=CC(=C1)C1=CC2=CC=CC=C2C=C1)=O | C20H16O4
